US07943645B2
Description 9 (RS)-2-[5-(4-Fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-piperidine-1-carboxylic acid tert butyl ester
The title compound (1.34 g) was prepared from 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (1.22 g), 5-(4-fluorophenyl)tetrazole (0.82 g) and dicyclohexylcarbodiimide (1.05 g) according to the method of description 1.

reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 1.22 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 5-(4-fluorophenyl)tetrazole | 0.82 g | FC1=CC=C(C=C1)C1=NN=NN1 | C7H5FN4
reactant | dicyclohexylcarbodiimide | 1.05 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | (RS)-2-[5-(4-Fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-piperidine-1-carboxylic acid tert butyl ester | 1.34 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC=1OC(=NN1)C1=CC=C(C=C1)F | C19H24FN3O3
